US04835154
To a solution of 1-(3,5-difluorobenzyl)-5-[(4-methyl-1-piperazinyl)carbonyl]-2-mercaptoimidazole (1.37 g, 3.89 mmole) in chloroform (15 ml) was added dropwise 1 molar borane-methyl sulfide (23.3 ml, 23.3 mmole) and the solution was stirred for 4 hours at 25° C. The reaction mixture was cooled in ice and methyl alcohol was added dropwise until gas evolution ceased. The solvent was removed by evaporation at reduced pressure, ten portions of methyl alcohol were added, the reaction mixture was heated at reflux for 5 minutes and the solvent was removed at reduced pressure. The crude product was dissolved in methylene chloride-methanol (9:1) and purified by flash slica chromatography. The product was purified by trituration with ethyl acetate and recrystallization from ethanol to give 1-(3,5-difluorobenzyl)-5-[(4-methyl-1-piperazinyl)methyl]-2-mercaptoimidazole as a solid, m.p.: 200°-201° C. (0.820 g, 62%).

reactant | 1-(3,5-difluorobenzyl)-5-[(4-methyl-1-piperazinyl)carbonyl]-2-mercaptoimidazole | 3.89 mmole, 1.37 g | FC=1C=C(CN2C(=NC=C2C(=O)N2CCN(CC2)C)S)C=C(C1)F | C16H18F2N4OS
reactant | borane methyl sulfide | 23.3 mmole, 1 molar, 23.3 ml | B.CSC
reactant | methyl alcohol | CO | CH4O
solvent | chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-(3,5-difluorobenzyl)-5-[(4-methyl-1-piperazinyl)methyl]-2-mercaptoimidazole | FC=1C=C(CN2C(=NC=C2CN2CCN(CC2)C)S)C=C(C1)F | C16H20F2N4S
